US06967216B2
1-(2,3,5,6-Tetrafluoropyridin-4-yl)-4-benzylpiperazine
To a solution of pentafluoropyridine (1.76 ml, 16.0 mmol) and 1-benzylpiperazine (2.64 g, 15.0 mmol) in DMSO (20 ml) was added potassium carbonate (4.20 g, 30.4 ml). The suspension was heated to 100° C. and stirred for five hours and allowed to cool to ambient temperature, poured onto water and then extracted with DCM. The extract was washed with brine, water, and dried. Volatile material was removed by evaporation to give the title compound (4.59 g) as an oil. NMR (CDCl3) 2.58 (m, 4H), 3.52 (m, 4H), 3.57 (s, 2H), 7.24-7.38 (m, 5H and CDCL3); m/z 326.

reactant | pentafluoropyridine | 16.0 mmol, 1.76 ml | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | 1-benzylpiperazine | 15.0 mmol, 2.64 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 30.4 ml, 4.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 1-(2,3,5,6-Tetrafluoropyridin-4-yl)-4-benzylpiperazine | 4.59 g | FC1=NC(=C(C(=C1F)N1CCN(CC1)CC1=CC=CC=C1)F)F | C16H15F4N3
